US07601714B2
To a 2 N solution of NH3 in MeOH (15 mL) in a high pressure Parr bottle was added trans-3-hydroxy-cyclohexanecarbonitrile (0.12 g, 1.0 mmol) and W-7 Raney Nickel (0.2 g, 3.4 mmol). The mixture was placed under 45 psi H2 and shaken for 15 h. The pressure was released and the reaction filtered through a pad of diatomaceous earth. The filter pad was washed with MeOH and the filtrate was concentrated under reduced pressure to provide 0.1 g (79%) of trans-3-aminomethyl-cyclohexanol as a white solid.

reactant | NH3 | N | H3N
reactant | trans-3-hydroxy-cyclohexanecarbonitrile | 1.0 mmol, 0.12 g | O[C@@H]1C[C@H](CCC1)C#N | C7H11NO
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Raney Nickel | 3.4 mmol, 0.2 g | [Ni] | Ni
product | trans-3-aminomethyl-cyclohexanol | 0.1 g, 79% | NC[C@@H]1C[C@H](CCC1)O | C7H15NO
